US08053440B2
A solution of 6-tert-butoxycarbonylamino-2,4-dimethoxy-3-morpholin-4-ylmethyl-benzoic acid (1.8 g, 4.54 mmol), EDCl.HCl (1.31 g, 6.82 mmol), HOBt (1.23 g, 9.09 mmol), and triethylamine (3.3 mL, 23.7 mmol) in THF (50 mL) was stirred at room temperature for 1 h. Ammonium hydroxide (50% aqueous, 10 mL) was then added to the reaction mixture. The resulting mixture was stirred at room temperature for 6 h. The reaction was quenched by adding water (50 mL), extracted with DCM (3×100 mL), and concentrated using a rotary evaporator. The residue was further purified by column (SiO2, DCM/MeOH/EtOAc=2:1:4) to provide 0.9 g of (2-carbamoyl-3,5-dimethoxy-4-morpholin-4-ylmethyl-phenyl)-carbamic acid tert-butyl ester (50%). A solution of (2-carbamoyl-3,5-dimethoxy-4-morpholin-4-ylmethyl-phenyl)-carbamic acid tert-butyl ester (0.9 g, 2.74 mmol) in HOAc (20 mL) and 12 N HCl aqueous (20 mL) was stirred at 50° C. for 1 h and then concentrated to dryness using a rotary evaporator. The residue was mixed with saturated sodium bicarbonate aqueous (40 mL), extracted with DCM (3×100 mL), and concentrated. The residue was further purified by column (SiO2, DCM/MeOH/EtOAc=3:2:3) to provide 0.6 g of 6-amino-2,4-dimethoxy-3-morpholin-4-ylmethyl-benzamide (89%). A mixture of 6-amino-2,4-dimethoxy-3-morpholin-4-ylmethyl-benzamide (0.6 g, 2.03 mmol), 3,5-dimethyl-4-hydroxy benzaldehyde (0.61 g, 4.06 mmol), sodium hydrogensulfite (1.24 g, 7.0 mmol) and p-toluenesulfonic acid (1.14 g, 6 mmol) in N,N-dimethyl acetamide (20 mL) was stirred at 115° C. for 6 h. The reaction mixture was cooled to room temperature, diluted with water (50 mL), extracted with EtOAc, and concentrated. Purification by column chromatography afforded a solid residue, which was made into slurry in a mixed solvent of DCM-hexanes (3 mL-20 mL). The slurry was filtered and washed with hexanes to provide 2-(4-hydroxy-3,5-dimethylphenyl)-5,7-dimethoxy-6-(morpholinomethyl)quinazolin-4(3H)-one (56 mg, 6.6%) as a light yellow solid. Selected data: MS (ES) m/z: 426.0; MP 237.0-239.1° C.

reactant | (2-carbamoyl-3,5-dimethoxy-4-morpholin-4-ylmethyl-phenyl)-carbamic acid tert-butyl ester | 2.74 mmol, 0.9 g | C(C)(C)(C)OC(NC1=C(C(=C(C(=C1)OC)CN1CCOCC1)OC)C(N)=O)=O | C19H29N3O6
solvent | HOAc | 20 mL | CC(=O)O | C2H4O2
solvent | HCl | 12 N, 20 mL | Cl | ClH
product | 6-amino-2,4-dimethoxy-3-morpholin-4-ylmethyl-benzamide | 0.6 g, 89% | NC1=CC(=C(C(=C1C(=O)N)OC)CN1CCOCC1)OC | C14H21N3O4
